US06953793B2
B. 4-(3-Ethoxycarbonylmethoxy-pyridin-2-ylamino)-piperidine-1-carboxylic Acid tert-butyl ester.
A stirring solution of 1.4 g (0.0048 mol) of 4-(3-hydroxy-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester was dissolved in THF (24 mL) was cooled to 0° C., and 0.13 g (0.0052 mol) of NaH was added. After 30 min, 0.8 g (0.0052 mol) of ethyl bromoacetate was added, and reaction was allowed to warm to room temperature and stirred overnight. Saturated NaHCO3 (20 mL) was added and the reaction mixture was partitioned between EtOAc (200 mL) and saturated NaHCO3 (75 mL). The organic layer was washed with water (50 mL) and NaCl (50 mL), dried over Na2SO4, and concentrated to afford 0.9 g (49%) of a white powder. MS (electrospray): exact mass calculated for C19H29N3O5, 379.21. m/z found, 380.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.74 (d, J=5.3 Hz, 1H), 6.76 (d, J=7.8 Hz, 1H), 6.46 (dd, J=7.8 Hz, 5.3 Hz, 1H), 5.05 (d, J=7.33 Hz, 1H), 4.59 (s, 2H), 4.26 (q, J=7.3 Hz, 2H), 4.18-3.92 (m, 3H), 2.97 (t, J=11.6 Hz, 2H), 2.06 (d, J=12.1 Hz, 2H), 1.46 (s, 9H), 1.46-1.34 (m, 2H) 1.29 (t, J=7.3 Hz, 3H).

reactant | 4-(3-hydroxy-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.0048 mol, 1.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=CC=C1O | C15H23N3O3
reactant | NaH | 0.0052 mol, 0.13 g | [H-].[Na+]
reactant | ethyl bromoacetate | 0.0052 mol, 0.8 g | BrCC(=O)OCC | C4H7BrO2
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | 4-(3-Ethoxycarbonylmethoxy-pyridin-2-ylamino)-piperidine-1-carboxylic Acid tert-butyl ester | 0.9 g, 49% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=CC=C1OCC(=O)OCC | C19H29N3O5
